US08022208B2
Methyl 4-(2-oxo-1,2-dihydropyridin-3-yl)benzoate (316 mg) was suspended in toluene (7 mL), and 1-methyl-4-piperidinol (318 mg) and cyanomethylenetrimethylphosphorane (317 mg) were added thereto, followed by stirring at 100° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol/chloroform=0% to 10%) to obtain methyl 4-[1-(1-methylpiperidin-4-yl)-2-oxo-1,2-dihydropyridin-3-yl]benzoate (85 mg) as a colorless oil.

reactant | Methyl 4-(2-oxo-1,2-dihydropyridin-3-yl)benzoate | 316 mg | O=C1NC=CC=C1C1=CC=C(C(=O)OC)C=C1 | C13H11NO3
reactant | 1-methyl-4-piperidinol | 318 mg | CN1CCC(CC1)O | C6H13NO
reactant | cyanomethylenetrimethylphosphorane | 317 mg | C(#N)C=P(C)(C)C | C5H10NP
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-[1-(1-methylpiperidin-4-yl)-2-oxo-1,2-dihydropyridin-3-yl]benzoate | 85 mg | CN1CCC(CC1)N1C(C(=CC=C1)C1=CC=C(C(=O)OC)C=C1)=O | C19H22N2O3
